* C:\Users\facun\OneDrive\Desktop\ITBA\5C TC\TP2\TP2\EJ2\opamp NE5534.asc
R1 N003 0 1k
R2 Vout N003 80k
R3 N002 N001 220k
Vin N001 0 AC 1
V2 +Vcc 0 15
V3 -Vcc 0 -15
XU2 N002 N003 +Vcc -Vcc Vout NC_01 NC_02 NE5534
.ac dec 100 100 10000G
.lib C:\Users\facun\OneDrive\Desktop\ITBA\5C TC\TP2\TP2\EJ2\Modelos de SPICE de opamps\NE5534 TI\NE5534.301
.backanno
.end
