* C:\Users\facun\OneDrive\Desktop\ITBA\5C TC\TP2\TP2\EJ2\LTspice\opamp NE5534.asc
R1 N002 0 {mc(1k,tol)}
R2 Vout N002 {mc(80k,tol)}
R3 N001 Vin {mc(1k,tol)}
Vin Vin 0 AC 100m
V2 +Vcc 0 15
V3 -Vcc 0 -15
XU2 N001 N002 +Vcc -Vcc Vout N003 N004 NE5534
C1 N003 N004 22p
.ac dec 100 10 10Meg
.param tol=0.05
.step param run 1 18 1
.lib C:\Users\facun\OneDrive\Desktop\ITBA\5C TC\TP2\TP2\EJ2\Modelos de SPICE de opamps\NE5534 TI\NE5534.301
.backanno
.end
