* C:\Users\Carlos\Desktop\ITBA\3er año\1er cuatri\TC\TP2\Informe\TP2\EJ5\Simulaciones\Draft1.asc
Ra N002 N001 10K
Rc N002 0 200
R1 +VCC N001 {R}
R2 N001 -VCC {10K-{R}}
V1 +VCC 0 15
V2 0 -VCC 15
.step param R list 100 200 300 500 1k 2k 3k 4k 5k 8k 9.9k
.op
.backanno
.end
