* C:\Users\Lucas\Documents\Actualmente Usando\Teoría de Circuitos\TP2\EJ4\Simulaciones\Integrador\Integrador.asc
V1 +15V 0 15
V2 0 -15V 15
V3 N002 0 AC 1
XU1 0 N001 +15V -15V VO LM833
C1 VO N001 20n
R1 N001 N002 5k
.ac dec 100 10 1meg
.lib C:\Users\Lucas\Documents\Actualmente Usando\Teoría de Circuitos\TP2\EJ4\Simulaciones\Modelos\Opamps_Comparators_ST.lib
.backanno
.end
