* C:\Users\Joaco\Desktop\repos\TC\TP2\EJ6\Simulation\TC_TP2_EJ6_simulation.asc
XU2 0 N001 vcc vee N002 TL072
XU3 0 N003 vcc vee vout TL072
R1 N001 vee 42.857k
R2 N001 vsensor 1k
R3 N002 N001 50k
R4 N003 N002 10k
R5 vout N003 10k
D1 0 vout BZX84B6V2L
V1 0 vee 15
V2 vcc 0 15
V3 vsensor 0
.model D D
.lib C:\Users\Joaco\Documents\LTspiceXVII\lib\cmp\standard.dio
.dc v3 0 1 1m
.lib C:\Users\Joaco\Desktop\TL072.301
.backanno
.end
