* C:\Users\Male\Desktop\TC\TP2\EJ1\simulacion_pcb\Circuito 1\Caso 1\ej1_circ1_caso1.asc
XU1 0 N001 vcc vee vout LMX24_LM2902
R3 N001 N004 150
R4 vout 0 10k
V1 0 vee 15
V2 vcc 0 15
R5 N004 0 4.7k
R6 N004 0 4.7k
v3 vin 0 SINE(0 50 50) AC 50 Rser=50
R7 vin N002 150
R8 N002 N001 4.7k
R9 N002 N001 4.7k
R1 vout N003 1.5k
R2 N003 N001 47k
R10 N003 N001 47k
;tran 0.1
.ac dec 100 50 1M
.lib C:\Users\Male\Desktop\TC\TP2\EJ1\LMx24_LM2902.cir
.backanno
.end
